spice
* NPN BJT Amplifier

VCC  4  0  DC 15
VIN  1  0  AC 1

RC   4  5  1k
RS   1  2  100
CI   2  3  10u
I1   3  0  DC 0.001

Q1   5  2  3  NPN

.model NPN NPN (IS=1e-14 BF=100)

.ends